US04806141
A solution of sodium ethoxide (1.10 mmole) in ethanol (8.2 ml) was added to a solution of 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2-methoxy-3,4,5,6-tetramethylphenyl)cyclohex-2-en-1-one (0.40 g, 1.10 mmole) in ethanol (50 ml). The mixture was evaporated to dryness and the residue dissolved in acetone (50 ml). 4-Toluenesulfonyl chloride (0.21 g, 1.10 mmole) was added and the mixture was stirred at room temperature for 2 hours, then evaporated to dryness under reduced pressure. The residue was purified by column chromatography over silica gel (eluant dichloromethane) to give 3-(4-toluenesulfonyl)oxy-2-[1-(ethoxyimino)propyl]-5-(2-methoxy-3,4,5,6-tetramethylphenyl)cyclohex-2-en-1-one (0.59 g; 100%) as a yellow oil.

reactant | sodium ethoxide | 1.10 mmole | [O-]CC.[Na+]
reactant | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2-methoxy-3,4,5,6-tetramethylphenyl)cyclohex-2-en-1-one | 1.10 mmole, 0.40 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)C)C)C)OC)=O | C22H31NO4
reactant | 4-Toluenesulfonyl chloride | 1.10 mmole, 0.21 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ethanol | 8.2 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(4-toluenesulfonyl)oxy-2-[1-(ethoxyimino)propyl]-5-(2-methoxy-3,4,5,6-tetramethylphenyl)cyclohex-2-en-1-one | 0.59 g, 100% | C1(=CC=C(C=C1)S(=O)(=O)OC1=C(C(CC(C1)C1=C(C(=C(C(=C1C)C)C)C)OC)=O)C(CC)=NOCC)C | C29H37NO6S
